US05981573
(2) Preparation of ethyl 5-{(2RS,3SR)-3-hydroxy-2-(4-nitrophenyl)butyl}-2-furancarboxylate
5.48 g of ethyl 5-{2-(4-nitrophenyl)-3-oxobutyl}-2-furancarboxylate in 50 ml of tetrahydrofuran was mixed with 16.5 ml of 1M lithium tri-sec-butylborohydride in tetrahydrofuran under cooling at -78° C. under stirring and stirred at the same temperature for 2 hours. After addition of water, the reaction solution was stirred at room temperature for 1 hour and then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The desiccant was filtered off, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography [hexane/ethyl acetate=5/1→1/1] to give 3.66 g of the title compound as a pale yellow oily substance.

reactant | ethyl 5-{2-(4-nitrophenyl)-3-oxobutyl}-2-furancarboxylate | 5.48 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CC1=CC=C(O1)C(=O)OCC)C(C)=O | C17H17NO6
reactant | lithium tri-sec-butylborohydride | 1M, 16.5 ml | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | ethyl 5-{(2RS,3SR)-3-hydroxy-2-(4-nitrophenyl)butyl}-2-furancarboxylate | 3.66 g | OC(C(CC1=CC=C(O1)C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-])C | C17H19NO6
